US07723336B2
Ethoxycarbonyl isothiocyanate (3.16 g, 24.07 mmol) was added to 3-aminopyrazole (Aldrich) (2.0 g, 24.07 mmol) in acetone (20 mL). The reaction mixture was stirred at room temperature for 1 hour. Then cold water (100 mL) was added to the reaction mixture. The solid precipitate was collected through filtration, washed with water (50 mL), and then air dried to give 4.64 g (90%) of ethyl 1H-pyrazol-5-ylcarbamothioylcarbamate.

reactant | Ethoxycarbonyl isothiocyanate | 24.07 mmol, 3.16 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 3-aminopyrazole | 24.07 mmol, 2.0 g | NC1=NNC=C1 | C3H5N3
reactant | water | 100 mL | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ethyl 1H-pyrazol-5-ylcarbamothioylcarbamate | 4.64 g, 90% | N1N=CC=C1NC(=S)NC(OCC)=O | C7H10N4O2S
